US04025505
The mixture of 0.5 g of N-(4-isocyanato-o-tolyl)-4-chlorophthalimide, 25 ml of p-dioxane and 10 ml of N hydrochloric acid is refluxed for 30 minutes and evaporated. The residue is taken up in methylene chloride, the solution washed with cold 5% aqueous sodium carbonate, dried, evaporated and the residue recrystallized from ethyl acetate, to yield the N-(4-amino-o-tolyl)-4-chlorophthalimide melting at 202°-204°.

reactant | N-(4-isocyanato-o-tolyl)-4-chlorophthalimide | 0.5 g | N(=C=O)C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C16H9ClN2O3
reactant | hydrochloric acid | Cl | ClH
solvent | p-dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | N-(4-amino-o-tolyl)-4-chlorophthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C15H11ClN2O2
